US04604132
Sodium hydride (135 mg) was added to a solution of 3-hydroxy-5-(2-thiazolyl)cyclohex-2-en-1-one (1.0 g) in dry dimethylformamide (20 ml). The mixture was heated to 60° C. under nitrogen. n-Butyric anhydride (886 mg) was added and the mixture was stirred and heated at 120° C. for 2.5 hr. After cooling, the mixture was poured into a dilute hydrochloric acid solution which was then extracted with dichloromethane. The organic extract was evaporated and the residue was heated at reflux with an aqueous potassium hydroxide solution (2 g in 50 ml) for 0.5 hr. After cooling, the solution was washed with dichloromethane (15 ml). The aqueous layer was acidified with dilute hydrochloric acid and the mixture was then extracted with ethyl acetate. The dried (MgSO4) organic extract was evaporated and the residue was purified by column chromatography over silica to give 2-butyryl-3-hydroxy-5-(2-thiazolyl)cyclohex-2-en-1-one as an orange-brown oil. Pmr spectrum (CDCl3 ; δ in ppm): 0.96 (3H, t); 1.44-1.84 (2H, m); 3.00-3.12 (6H, m); 3.68-4.00 (1H, m); 7.28 (1H, d); 7.72 (1H, d); 18.20 (1H, brs).

reactant | Sodium hydride | 135 mg | [H-].[Na+]
reactant | 3-hydroxy-5-(2-thiazolyl)cyclohex-2-en-1-one | 1.0 g | OC1=CC(CC(C1)C=1SC=CN1)=O | C9H9NO2S
reactant | n-Butyric anhydride | 886 mg | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-butyryl-3-hydroxy-5-(2-thiazolyl)cyclohex-2-en-1-one | C(CCC)(=O)C=1C(CC(CC1O)C=1SC=CN1)=O | C13H15NO3S
